US08048902B2
To [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester (0.100 g, 0.23 mmol) in DME (5 mL) was added [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester (0.074 g, 0.23 mmol), followed by potassium carbonate (0.079 g, 0.58 mmol) and water (3 mL). The solution was purged with N2 for 10 minutes, and then tetrakis(triphenylphosphine)palladium(0) (0.027 g, 0.02 mmol) was added. The reaction was stirred at 100° C. until no starting material was seen by analytical LCMS and thin layer chromatography (tlc), and then cooled to room temperature and diluted with EtOAc. The mixture was extracted with EtOAc, and the combined organic layers were washed with water and brine. The combined aqueous layers were back-extracted with EtOAc, and the combined organic layers were dried and concentrated. The residue was purified by silica gel chromatography to give (4′-{4-[1-(2-chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester | 0.23 mmol, 0.100 g | ClC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H16BrClN2O3
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | 0.23 mmol, 0.074 g | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
reactant | potassium carbonate | 0.58 mmol, 0.079 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 3 mL | O | H2O
solvent | DME | 5 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 0.027 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4′-{4-[1-(2-chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-6-methoxy-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=CC=C(C=C1)C1=C(C(=NO1)C)NC(=O)OC(C)C1=C(C=CC=C1)Cl)=O | C30H29ClN2O6
